US08044070B2
Production of 2-(1-cyclopentylpiperidin-4-yloxy)-5-(4-cyanophenyl)pyrimidine
Cyclopentanone (0.022 mol) and 0.3 N zinc chloride-sodium borocyanide solution (0.55 ml) were added to a methanol solution (3.0 ml) of 2-(piperidin-4-yloxy)-5-(4-cyanophenyl)pyrimidine (46 mg, 0.16 mmol), and stirred at room temperature for 14 hours. The reaction mixture was concentrated under reduced pressure, and the residue was extracted with chloroform. The organic layer was washed with saturated saline solution, dried with anhydrous sodium sulfate, and concentrated under reduced pressure. The resulting residue was purified through partitioning thin-layer chromatography (chloroform:methanol=10:1) to obtain the entitled compound (50 mg, 87%).

reactant | Cyclopentanone | 0.022 mol | C1(CCCC1)=O | C5H8O
reactant | 2-(piperidin-4-yloxy)-5-(4-cyanophenyl)pyrimidine | 0.16 mmol, 46 mg | N1CCC(CC1)OC1=NC=C(C=N1)C1=CC=C(C=C1)C#N | C16H16N4O
catalyst | zinc chloride sodium | 0.3 N | [Cl-].[Zn+2].[Cl-].[Na]
solvent | methanol | 3.0 ml | CO | CH4O
product | 2-(1-cyclopentylpiperidin-4-yloxy)-5-(4-cyanophenyl)pyrimidine | 50 mg, 87% | C1(CCCC1)N1CCC(CC1)OC1=NC=C(C=N1)C1=CC=C(C=C1)C#N | C21H24N4O
